US07550590B2
2-[2-(3-(R)-Amino-piperidin-1-yl)-6-fluoro-4-oxo-4H-quinazolin-3-ylmethyl]-benzamide
To a solution of 2-[2-(3-amino-piperidin-1-yl)-6-fluoro-4-oxo-4H-quinazolin-3-ylmethyl]-benzonitrile (Example 6,50 mg) in 5 mL of THF was added 2 mL of 1N NaOH, followed by 2 mL H2O2. After stirring at room temperature overnight, the mixture was acidified with concentrated HCl. Removal of the solvent and purification by Preparative LC/MS provided the title compound. 1H NMR (400 MHz, MeOD): δ 7.68-7.74 (m, 1H), 7.59-7.66 (m, 1H), 7.48-7.58 (m, 2H), 7.29-7.40 (m, 2H), 7.02 (d, J=6.57 Hz, 1H), 5.58 (AB q, J=22.74, 15.66 Hz, 2H), 3.49-3.59 (m, 2H), 3.17-3.26 (m, 1H), 3.01-3.10 (m, 2H), 1.64-2.09 (m, 4H). MS: (ES) [m+H] calculated for C21H22FN5O2, 396; found 396.

reactant | 2-[2-(3-amino-piperidin-1-yl)-6-fluoro-4-oxo-4H-quinazolin-3-ylmethyl]-benzonitrile | 6,50 mg | NC1CN(CCC1)C1=NC2=CC=C(C=C2C(N1CC1=C(C#N)C=CC=C1)=O)F | C21H20FN5O
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | H2O2 | 2 mL | OO | H2O2
reactant | HCl | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[2-(3-(R)-Amino-piperidin-1-yl)-6-fluoro-4-oxo-4H-quinazolin-3-ylmethyl]-benzamide | N[C@H]1CN(CCC1)C1=NC2=CC=C(C=C2C(N1CC1=C(C(=O)N)C=CC=C1)=O)F | C21H22FN5O2
